US06087392
(E) 4-[4-(4-Fluorophenoxy)Benzenesulfonylamino]Tetrahydropyran-4-Carboxylic Acid N-Benzyloxyamide
Diisopropyl ethylamine (3.89 grams, 0.030 mole) and (benzotriazol-1-yloxy)tris-(dimethylamino)-phosphonium hexafluorophosphate (13.27 grams, 0.030 mole) were added sequentially to a solution of 4-[4-(4-fluorophenoxy)-benzenesulfonylamino] tetrahydropyran-4-carboxylic acid (11.22 grams, 0.028 mole) in anhydrous N,N-dimethylformamide (140 mL). The resulting solution was stirred at room temperature for 16 hours. Additional diisopropyl ethylamine (4.0 mL, 0.051 mole) and O-benzyl hydroxylamine hydrochloride (5.46 grams, 0.034 mole) were then added and the resulting mixture was stirred at 60° C. for 18 hours. After concentration under vacuum, the residue was treated with 0.5N aqueous hydrochloric acid solution and extracted with ethyl acetate. The organic extract was washed with saturated aqueous sodium bicarbonate solution, water, and brine. The solution was dried over magnesium sulfate, filtered and concentrated to one fourth original volume. Addition of an equal volume of hexane precipitated 4-[4-(4-fluorophenoxy)benzenesulfonylamino]-tetrahydropyran-4-carboxylic acid N-benzyloxyamide (11.595 g, 81.6%) as a white crystalline solid (mp 175-176° C.).

reactant | Diisopropyl ethylamine | 0.030 mole, 3.89 grams | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (benzotriazol-1-yloxy)tris-(dimethylamino)-phosphonium hexafluorophosphate | 0.030 mole, 13.27 grams | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | 4-[4-(4-fluorophenoxy)-benzenesulfonylamino] tetrahydropyran-4-carboxylic acid | 0.028 mole, 11.22 grams | FC1=CC=C(OC2=CC=C(C=C2)S(=O)(=O)NC2(CCOCC2)C(=O)O)C=C1 | C18H18FNO6S
reactant | diisopropyl ethylamine | 0.051 mole, 4.0 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | O-benzyl hydroxylamine hydrochloride | 0.034 mole, 5.46 grams | Cl.C(C1=CC=CC=C1)ON
solvent | N,N-dimethylformamide | 140 mL | CN(C=O)C | C3H7NO
product | 4-[4-(4-Fluorophenoxy)Benzenesulfonylamino]Tetrahydropyran-4-Carboxylic Acid N-Benzyloxyamide | C(C1=CC=CC=C1)ONC(=O)C1(CCOCC1)NS(=O)(=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)F | C25H25FN2O6S
